US07732448B2
0.2 g of 4-chloro-5-fluoro-6-(2-pentynyloxy)pyrimidine and 0.32 g of 3,5-dimethylpiperidine (cis/trans=about 3/1) were mixed and left for 3 hours at room temperature. The reaction mixture was subjected to silica gel column chromatography to obtain 0.23 g of 4-(3,5-dimethylpiperidino)-5-fluoro-6-(2-pentynyloxy)pyrimidine (hereinafter, referred to as Compound (11)). Compound (11) had the cis/trans diastereomer originated two methyls on the piperidine ring. The ratio of the cis/trans diastereomer was about 3.8/1.

reactant | 4-chloro-5-fluoro-6-(2-pentynyloxy)pyrimidine | 0.2 g | ClC1=NC=NC(=C1F)OCC#CCC | C9H8ClFN2O
reactant | 3,5-dimethylpiperidine | 0.32 g | CC1CNCC(C1)C | C7H15N
product | 4-(3,5-dimethylpiperidino)-5-fluoro-6-(2-pentynyloxy)pyrimidine | 0.23 g | CC1CN(CC(C1)C)C1=NC=NC(=C1F)OCC#CCC | C16H22FN3O
